US05498619
(1) 3-Phenyl-5-(1-hydroxybutyl)isothiazole
Dissolved in 60 ml of anhydrous tetrahydrofuran were 3.1 g (19.1 mmol) of 3-phenylisothiazole, followed by the addition 18.2 ml of an n-butyl lithium-hexane solution (1.57 mol/l) under a nitrogen gas stream at -78° C. over a dry ice-acetone bath. After the resulting mixture was stirred for 1 hour, 1.51 g (21 mmol) of butylaldehyde were added dropwise. The solution was stirred for 1 hour at the same temperature, whereby the reaction was completed. Water and chloroform were added. The reaction product was extracted into an organic layer. The organic layer was concentrated and the concentrate was purified by silica gel chromatography (eluent: 20:1 n-hexane/ethyl acetate), so that 3-phenyl-5-(1-hydroxybutyl)isothiazole was obtained as yellow oil.

reactant | 3-phenylisothiazole | 19.1 mmol, 3.1 g | C1(=CC=CC=C1)C1=NSC=C1 | C9H7NS
reactant | Water | O | H2O
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
product | 3-Phenyl-5-(1-hydroxybutyl)isothiazole | C1(=CC=CC=C1)C1=NSC(=C1)C(CCC)O | C13H15NOS
